US05140026
4-[(4-nitrophenyl)thio]butanol
A mixture of 4-nitrothiophenol (0.11 mol), 4-chloro-1-butanol (0.09 mol), and potassium carbonate (0.1 mol) in dimethoxyethane (100 mL) is heated at reflux temperature for 18 hrs. The mixture is filtered and the filtrate is concentrated to dryness. The residue is dissolved in methylene chloride and washed with 10% sodium hydroxide. The chloroform solution is dried and concentrated to obtain the title compound.

reactant | 4-nitrothiophenol | 0.11 mol | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 4-chloro-1-butanol | 0.09 mol | ClCCCCO | C4H9ClO
reactant | potassium carbonate | 0.1 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
product | 4-[(4-nitrophenyl)thio]butanol | [N+](=O)([O-])C1=CC=C(C=C1)SCCCCO | C10H13NO3S
